US06660744B1
A mixture of cis-tert-butyl N-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)carbamate (1.7 g, 3.3 mmol, 1 equiv) and dichloromethane (40 mL) was cooled at 0° C. and then trifluoroacetic acid (10.5 mL, 137 mmol, 41 equiv) was added. The reaction mixture was allowed to warm to ambient temperature over 3 h, the solvent was removed under reduced pressure, and the residue was partitioned between CH2Cl2 (50 mL) and water (50 mL). The organic layer was separated and treated with saturated aqueous sodium bicarbonate solution (50 mL). The organic extract was dried over MgSO4, filtered, and concentrated to afford cis-3-(3-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a white solid (1.34 g, 3.30 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 8.21 (1H, s), 7.17-7.21 (1H, m), 6.85 (1H, s), 6.72-6.74 (1H, m), 6.65-6.68 (1H, m), 5.36 (2H, bs), 4.75-4.80 (1H, m), 2.22-2.51 (11H, m), 2.20 (3H, s), 2.06-2.08 (2H, m), 1.58-1.68 (4H, m); RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 9.06 min. MS: MH+ 407.

reactant | cis-tert-butyl N-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)carbamate | 3.3 mmol, 1.7 g, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C=2C=C(C=CC2)NC(OC(C)(C)C)=O)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C27H38N8O2
reactant | trifluoroacetic acid | 137 mmol, 10.5 mL, 41 equiv | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | cis-3-(3-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 3.30 mmol, 1.34 g | NC=1C=C(C=CC1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
